US04232035
4-[[O-[N-Methyl-N-(4-methylphenylthiosulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane was prepared by the procedure described in Example I by reacting 4.0 g (0.03 m) of 5-methyl-4-oximino-1,3-oxathiolane, 6.95 g (0.03 m) of N-methyl-N-(4-methylphenylthiosulfenyl) carbamoyl fluoride and 3.07 g (0.03 m) of triethylamine in 50 ml of dioxane. The crude residual oil (7.3 g) was purified by dry column chromatography using silica gel.

reactant | 5-methyl-4-oximino-1,3-oxathiolane | 4.0 g | CC1C(SCO1)=NO | C4H7NO2S
reactant | N-methyl-N-(4-methylphenylthiosulfenyl) carbamoyl fluoride | 6.95 g | CN(C(=O)F)SSC1=CC=C(C=C1)C | C9H10FNOS2
reactant | triethylamine | 3.07 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-[[O-[N-Methyl-N-(4-methylphenylthiosulfenyl)carbamoyl]oximino]]-5-methyl-1,3-oxathiolane | CN(C(=O)ON=C1SCOC1C)SSC1=CC=C(C=C1)C | C13H16N2O3S3
